US05407916
Z-Pro (2.18 g, 8.3 mmol) and Trp-Tle-Leu-OEt (prepared by catalytic hydrogenation of Z-Trp-Tle-Leu-OEt over palladium on charcoal) (3.47 g, 7.6 mmol), and NMM (0.92 mL) are dissolved in 35 mL DMF, cooled to 0° C., and treated with TBTU (2.66 g, 8.3 mmol). The reaction is stirred at 0° C. for 1 hour then removed from the ice bath and stirred at room temperature for 2 hours. The mixture is poured into 350 mL of a saturated solution of sodium bicarbonate which is then extracted with 350 mL of ethyl acetate. The combined organic extracts are washed with 350 mL of 1 M KHSO4, water and brine, and then dried over sodium sulfate. The solvents are removed and the residue chromatographed on silica gel (1.5% MeOH in chloroform) to give Z-Pro-Trp-Tle-Leu-OEt (Seq ID No: 7) (4.7 g). FABMS M+1 690

reactant | Z-Pro | 8.3 mmol, 2.18 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | Trp-Tle-Leu-OEt | 7.6 mmol, 3.47 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC | C25H38N4O4
reactant | NMM | 0.92 mL | CN1CCOCC1 | C5H11NO
reactant | TBTU | 8.3 mmol, 2.66 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | Z-Pro-Trp-Tle-Leu-OEt | 4.7 g | N1([C@H](C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC)CCC1)C(=O)OCC1=CC=CC=C1 | C38H51N5O7
